US08106190B2
1-Chloro-2,5-pyrrolidinedione was added at room temperature to a 1,2-dichloroethane and DMF solution of 2-[(cyclopropylmethyl)amino]nicotinic acid, followed by stirring for 1 day. By post-treating the reaction liquid, 5-chloro-2-[(cyclopropylmethyl)amino]nicotinic acid was obtained.

reactant | 1-Chloro-2,5-pyrrolidinedione | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 1,2-dichloroethane | ClCCCl | C2H4Cl2
reactant | 2-[(cyclopropylmethyl)amino]nicotinic acid | C1(CC1)CNC1=C(C(=O)O)C=CC=N1 | C10H12N2O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-chloro-2-[(cyclopropylmethyl)amino]nicotinic acid | ClC=1C=NC(=C(C(=O)O)C1)NCC1CC1 | C10H11ClN2O2
